US07365065B2
tert-Butyldimethylsilyl chloride (135 mg, 0.9 mmol) was added to a solution of N-(2-hydroxyethyl)benzomorpholine-2-carboxamide (185 mg, 0.83 mmol) and imidazole (61 mg, 0.90 mmol) in DMF (3 ml) while cooling in an ice/water bath. The mixture was allowed to warm to room temperature and stirred for 18 h. The mixture was reduced, taken up in ethyl acetate, washed with 0.3N potassium hydrogen sulphate and brine, filtered through phase separation paper and reduced. Chromatography (70% EtOAc/30% 60-80 petroleum ether) afforded N-(2-(tert-butyldimethylsilyloxyethyl)benzomorpholine-2-carboxamide (230 mg, 82%) as a brown gum.

reactant | tert-Butyldimethylsilyl chloride | 0.9 mmol, 135 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | N-(2-hydroxyethyl)benzomorpholine-2-carboxamide | 0.83 mmol, 185 mg | OCCNC(=O)C1CNC2=C(O1)C=CC=C2 | C11H14N2O3
reactant | imidazole | 0.90 mmol, 61 mg | N1C=NC=C1 | C3H4N2
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(tert-butyldimethylsilyloxyethyl)benzomorpholine-2-carboxamide | 230 mg, 82% | [Si](C)(C)(C(C)(C)C)OCCC1(CNC2=C(O1)C=CC=C2)C(=O)N | C17H28N2O3Si
